.SUBCKT LM7805  1    2    3
* In GND Out
QT6          23  10  2   Q_NPN 0.1
QT7          5   4   10  Q_NPN 0.1
QT5          7   6   5   Q_NPN 0.1
QT1          1   9   8   Q_NPN 0.1
QT3          11  8   7   Q_NPN 0.1
QT2          11  13  12  Q_NPN 0.1
QT17         1   15  14  Q_NPN 10
C2           10  23      4P
R16          12  5       500
R12          16  2       12.1K
QT18         17  23  16  Q_NPN 0.1
D1           18  19  	 D_D 
R11          20  21      850
R5           22  3       100
QT14         24  18  2   Q_NPN 0.1
R21          6   2       2.67K
R20          3   6       640
DZ2          25  26      D_5V1 
R19          1   26      16K
R18          14  3       250M
R17          25  14      380
R15          25  15      1.62K
QT16         1   20  15  Q_NPN 1
QT15         2   24  21  Q_PNP 0.1
*OFF
R14          21  24      4K
C1           27  24      20P
R13          19  2       4K
QT13         24  27  18  Q_NPN 0.1
QT12         20  25  22  Q_NPN 1 
*OFF
QT11         20  28  2   Q_NPN 0.1
*OFF
QT10         20  11  1   Q_PNP 0.1
R10          17  27      16.5K
R9           5   4       1.9K
R8           4   23      26
R7           10  2       1.2K
R6           29  2       1K
QT9          11  11  1   Q_PNP 0.1
QT8          27  16  29  Q_NPN 0.1
QT4          15  6   17  Q_NPN 0.1
DZ1          2   9       D_5V6
R4           1   9       80K
R3           28  2       830
R2           13  28      4.97K
R1           8   13      7K

.MODEL D_5V1 D( IS=10F N=1.16 BV=5.1 IBV=0.5M CJ0 = 1P TT = 10p )
.MODEL D_5V6 D( IS=10F N=1.16 BV=5.6 IBV=5U CJ0 = 1P TT = 10p )
.MODEL Q_NPN NPN( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+       TF=10P TR=1N )
.MODEL Q_PNP PNP( IS=10F NF=1.16 NR=1.16 BF=80 CJC=1P CJE=2P  
+      TF=10P TR=1N )
.MODEL D_D D( IS=1F N=1.16 CJ0 = 1P TT = 10p )

.ENDS LM7805